US05760032
5-(2-Chlorophenyl)-7-ethyl-2-hydrazino-3H-thieno[2,3-e] [1,4]diazepine (100 g) was suspended in chloroform (2 l) at room temperature, and triethylamine (193 ml) was added. Trifluoroacetic anhydride (70 ml) was dropwise added, and the mixture was stirred for 3 hours. The reaction mixture was washed with a saturated aqueous sodium hydrogencarbonate solution, an aqueous citric acid solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated to give an oil. The oil was dissolved in a mixed solvent of toluene (2 l) and acetic acid (18.5 ml), and the mixture was refluxed for 3 hours. The reaction mixture was washed with a saturated aqueous sodium hydrogencarbonate solution and saturated brine, and dried over magnesium sulfate. The solvent was evaporated. The residue was purified by silica gel column chromatography (eluted with a mixed solvent of ethyl acetate and hexane) and crystallized from a mixed solvent of ethyl acetate and hexane to give 9.4 g of 4-(2-chlorophenyl)-2-ethyl-9-trifluoromethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine.

reactant | 5-(2-Chlorophenyl)-7-ethyl-2-hydrazino-3H-thieno[2,3-e] [1,4]diazepine | 100 g | ClC1=C(C=CC=C1)C=1C2=C(N=C(CN1)NN)SC(=C2)CC | C15H15ClN4S
reactant | triethylamine | 193 ml | C(C)N(CC)CC | C6H15N
reactant | Trifluoroacetic anhydride | 70 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | chloroform | 2 l | C(Cl)(Cl)Cl | CHCl3
solvent | toluene | 2 l | C1(=CC=CC=C1)C | C7H8
solvent | acetic acid | 18.5 ml | C(C)(=O)O | C2H4O2
product | 4-(2-chlorophenyl)-2-ethyl-9-trifluoromethyl-6H-thieno[3,2-f] [1,2,4]triazolo[4,3-a] [1,4]diazepine | 9.4 g | ClC1=C(C=CC=C1)C1=NCC=2N(C3=C1C=C(S3)CC)C(=NN2)C(F)(F)F | C17H12ClF3N4S
